US09227978B2
1-(4-(2′,6-dichloro-4-methoxy-[1,1′-biphenyl]-3-carbonyl)piperazin-1-yl)prop-2-en-1-one
tert-Butyl 4-(2′,6-dichloro-4-methoxy-[1,1′-biphenyl]-3-carbonyl)piperazine-1-carboxylate (200 mg, 0.43 mmol) was stirred in HCl in MeOH (2.86 M, 10 mL) for 1 h. The mixture was concentrated in vacuo to yield the crude product. The residue was dissolved in DCM (15 mL), triethylamine (0.5 mL), acryloyl chloride (40 mg, 0.43 mmol) was added to the mixture. The reaction mixture was stirred at room temperature for 30 min, poured into water, and extracted with DCM. The organic layer was washed with water and brine, dried over Na2SO4 and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel (dichloromethane/methanol=50:1) to afford the desired product (16 mg, 10% yield) as white solid. ESI-MS m/z: 419.2[M+H]+.

reactant | tert-Butyl 4-(2′,6-dichloro-4-methoxy-[1,1′-biphenyl]-3-carbonyl)piperazine-1-carboxylate | 0.43 mmol, 200 mg | ClC1=C(C=CC=C1)C1=CC(=C(C=C1Cl)OC)C(=O)N1CCN(CC1)C(=O)OC(C)(C)C | C23H26Cl2N2O4
reactant | triethylamine | 0.5 mL | C(C)N(CC)CC | C6H15N
reactant | acryloyl chloride | 0.43 mmol, 40 mg | C(C=C)(=O)Cl | C3H3ClO
reactant | water | O | H2O
solvent | HCl | Cl | ClH
solvent | MeOH | 2.86 M, 10 mL | CO | CH4O
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-(2′,6-dichloro-4-methoxy-[1,1′-biphenyl]-3-carbonyl)piperazin-1-yl)prop-2-en-1-one | 16 mg, 10% yield | ClC1=C(C=CC=C1)C1=CC(=C(C=C1Cl)OC)C(=O)N1CCN(CC1)C(C=C)=O | C21H20Cl2N2O3
